US04501746
N-(3-pyridyl)-N-[(4-chlorophenyl)methyl]-α-(n-butylthio)acetamide was prepared by reacting 5.0 g. of N-(3-pyridyl)-[(4-chlorophenyl)methyl]amine with 3.5 g. of α-(n-butylthio)acetic acid and 5.0 g. of N,N'-dicyclohexylcarbodiimide in 100 ml. of dichloromethane according to the method of Example 2. Weight collected was 3.9 g as an oil.

reactant | N-(3-pyridyl)-[(4-chlorophenyl)methyl]amine | N1=CC(=CC=C1)NCC1=CC=C(C=C1)Cl | C12H11ClN2
reactant | α-(n-butylthio)acetic acid | C(CCC)SCC(=O)O | C6H12O2S
reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(3-pyridyl)-N-[(4-chlorophenyl)methyl]-α-(n-butylthio)acetamide | N1=CC(=CC=C1)N(C(CSCCCC)=O)CC1=CC=C(C=C1)Cl | C18H21ClN2OS
